US07495007B2
To the solution of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-1′-[(methoxycarbonyl)-methyl]-2′-(2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (0.21 g, 0.4 mmol) prepared in 29b in the mixture of methanol (10 mL) and tetrahydrofuran (20 mL) was added aqueous NaOH solution (1N, 10 mL, 10 mmol). The reaction mixture was stirred at room temperature for overnight and then concentrated. The residue was neutralized to “pH” ˜7, then extracted with ethyl acetate. The organic layer was separated, washed with H2O, brine, dried over MgSO4 and concentrated to give racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-1′-[(hydroxycarbonyl)-methyl]-2′-(2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as a white foam.

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-1′-[(methoxycarbonyl)-methyl]-2′-(2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.4 mmol, 0.21 g | ClC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CC(=O)OC)C1=C(C=CC=C1)C)=O | C28H24Cl2N2O4
reactant | methanol | 10 mL | CO | CH4O
reactant | NaOH | 10 mmol, 1N, 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-1′-[(hydroxycarbonyl)-methyl]-2′-(2-methylphenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | ClC1=CC=C2C(=C1)NC(C21C(N(C(CC1C1=CC(=CC=C1)Cl)=O)CC(=O)O)C1=C(C=CC=C1)C)=O | C27H22Cl2N2O4
